US04822908
Methyl α-(2-n-butoxyphenyl)-3-methoxyacrylate (Compound 7)
10 g of methyl α formyl-(2-butoxyphenyl)acetate are dissolved in 100 ml of acetone. 15 g of potassium carbonate are added, followed gradually with stirring by an equimolar amount of dimethyl sulfate. After 12 hours of refluxing, 50 ml of H2O are added, followed carefully by 30 ml of concentrated NH3 solution. After 2 hours of stirring, about 100 ml of solvent are drawn off, poured onto ice and extracted with dichloromethane. Drying of the organic phase leaves 8.7 g of oil.

reactant | methyl α formyl-(2-butoxyphenyl)acetate | 10 g | C(=O)C(C(=O)OC)C1=C(C=CC=C1)OCCCC | C14H18O4
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | NH3 | 30 ml | N | H3N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | H2O | 50 ml | O | H2O
product | Methyl α-(2-n-butoxyphenyl)-3-methoxyacrylate | 8.7 g | C(CCC)OC1=C(C=CC=C1)C(C(=O)OC)=COC | C15H20O4
